US07544690B2
A solution of cis-{4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester (1.2 g, 3 mmol) in 50% TFA in CH2Cl2 (20 mL) was stirred at ambient temperature. After 30 minutes, the mixture was concentrated and the residue was diluted with 1 M aqueous sodium hydroxide. The aqueous layer was extracted with CH2Cl2 (twice). The combined organic layer was dried over Na2SO4, filtered and concentrated to give cis-N2-(4-amino-cyclohexylmethyl)-N4,N4-dimethyl-quinazoline-2,4-diamine (0.88 g, 98%) as a white solid.

reactant | cis-{4-[(4-dimethylamino-quinazolin-2-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester | 3 mmol, 1.2 g | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)CNC1=NC2=CC=CC=C2C(=N1)N(C)C)=O | C22H33N5O2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | cis-N2-(4-amino-cyclohexylmethyl)-N4,N4-dimethyl-quinazoline-2,4-diamine | 0.88 g, 98% | N[C@H]1CC[C@H](CC1)CNC1=NC2=CC=CC=C2C(=N1)N(C)C | C17H25N5
